US05955471
(RS)-N-tert-Butyloxycarbonyl-3-ethoxycarbonyl-1,2,3,4-tetrahydroisoquinolin
To 34 g of 1,2,3,4-tetrahydro-3-isoquinoline carboxylic acid, ethyl ester dissolved in 180 mL of the dichloromethane, di-tert-butyl dicarbonate (37.9 g) was added to the solution portion wise. The reaction mixture was stirred for 30 min. until no gas evolution was observed. The mixture was washed with 200 mL 0.5N HCl solution followed by 200 mL brine. The organic layer was dried over MgSO4 and evaporated in vacuo to provide 49.7 g (92%) of the product as yellow solid.

reactant | 1,2,3,4-tetrahydro-3-isoquinoline carboxylic acid, ethyl ester | 34 g | C1NC(CC2=CC=CC=C12)C(=O)OCC | C12H15NO2
reactant | di-tert-butyl dicarbonate | 37.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 180 mL | ClCCl | CH2Cl2
product | (RS)-N-tert-Butyloxycarbonyl-3-ethoxycarbonyl-1,2,3,4-tetrahydroisoquinolin | 49.7 g, 92% | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2CC1C(=O)OCC | C17H23NO4
